US06887896B1
(2E,4E,6E)-7-(4-Chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-6-fluoro-3-methyl-nona-2,4,6-trienoic acid (Compound A-178)
As described in General Procedure J-1, ethyl (2E,4E,6E)-7-(4-chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-6-fluoro-3-methyl-nona-2,4,6-trienoate (Compound A-167, 30 mg, 0.06 mmol) was hydrolyzed with 1 N NaOH to produce the title compound as a solid after recrystallization from acetonitrile.

reactant | ethyl (2E,4E,6E)-7-(4-chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-6-fluoro-3-methyl-nona-2,4,6-trienoate | 0.06 mmol, 30 mg | ClC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\C=C\C(=C\C(=O)OCC)\C)/F)/CC)OCC | C29H38ClFO3
reactant | NaOH | 1 N | [OH-].[Na+]
product | (2E,4E,6E)-7-(4-Chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-6-fluoro-3-methyl-nona-2,4,6-trienoic acid | ClC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\C=C\C(=C\C(=O)O)\C)/F)/CC)OCC | C27H34ClFO3
